US08859580B2
3,4,6-Trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine (racemic mixture of diastereomer shown)
A mixture of 4,6-dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carbonitrile (one diastereomer, 925 mg), water (30 mL), and 4 M hydrochloric acid (30 mL) is stirred at reflux temperature for 9 h. After cooling to ambient temperature, the solution is basified using concentrated aqueous ammonia solution and the resulting mixture is extracted with EtOAc (2×50 mL). The combined organic extracts are washed with brine and dried (MgSO4). Removal of the solvent under reduced pressure affords the title compound.

reactant | 4,6-dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carbonitrile | 925 mg | CC1CC2(C3=C(CC(N1C#N)C2)C=CC=C3)C | C15H18N2
reactant | hydrochloric acid | 4 M, 30 mL | Cl | ClH
reactant | ammonia | N | H3N
solvent | water | 30 mL | O | H2O
product | 3,4,6-Trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine | CN1C2CC3=C(C(CC1C)(C2)C)C=CC=C3 | C15H21N
